US04110455
2-benzoyl-3-nitro-6-methylpyridine
They were added to a solution of 16.8 grams of diethyl malonate in 75 ml. of dioxane with stirring and under a nitrogen atmosphere 3.3 grams of sodium hydride (80%) and then stirring continued for 15 minutes more. Then there were added in portions 26.3 grams of 2-benzoyl-3-nitro-6-chloropyridine and then stirring was continued at 70° C. for two hours more. The precipitated deeply colored sodium salt of the dicarbethoxymethyl compound was filtered off with suction. Five grams of this compound were boiled under reflux in a mixture of 25 ml. of concentrated hydrochloric acid and 25 ml. of methanol for 90 minutes, the solution filtered hot and the filtrate treated with water to the point of turbidity. The desired product crystallized out.

reactant | diethyl malonate | 16.8 grams | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 3.3 grams | [H-].[Na+]
reactant | 2-benzoyl-3-nitro-6-chloropyridine | 26.3 grams | C(C1=CC=CC=C1)(=O)C1=NC(=CC=C1[N+](=O)[O-])Cl | C12H7ClN2O3
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-benzoyl-3-nitro-6-methylpyridine | C(C1=CC=CC=C1)(=O)C1=NC(=CC=C1[N+](=O)[O-])C | C13H10N2O3
